US07091214B2
A solution of 7-bromo-4-chloro-3-nitroquinoline (143.8 g, 0.5 mol) in 800 mL warm DMF was added to a stirred solution of ethylenediamine in 200 mL DMF at room temperature; the reaction was stirred at room temperature overnight. The reaction was quenched with 2 L water and stirred for an additional hour. Additional water was added, and the mixture was stirred overnight. A precipitate formed and was isolated by filtration and air-dried overnight on the filter funnel to provide N1-(7-bromo-3-nitroquinolin-4-yl)ethane-1,2-diamine as a yellow solid.

reactant | 7-bromo-4-chloro-3-nitroquinoline | 0.5 mol, 143.8 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | N1-(7-bromo-3-nitroquinolin-4-yl)ethane-1,2-diamine | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCN | C11H11BrN4O2
